US06235742B1
4-[(1-methyl-7-oxo-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-5-yl)methyl]-1-benzenesulfonic acid
A solution of 4-[(1-methyl-7-oxo-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-5-yl)methyl]-1-benzenesulfonyl chloride (250 mg, 0.00065 mol) in 1N aqueous sodium hydroxide solution (3 ml) was stirred at room temperature for 2 hours. The reaction was acidified to pH1 with 2N aqueous hydrochloric acid and the resulting crystals filtered, washed with water, and dried by air suction, to yield the title compound (178 mg), m.p.>350° C.

reactant | 4-[(1-methyl-7-oxo-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-5-yl)methyl]-1-benzenesulfonyl chloride | 0.00065 mol, 250 mg | CN1N=C(C=2N=C(NC(C21)=O)CC2=CC=C(C=C2)S(=O)(=O)Cl)CCC | C16H17ClN4O3S
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | sodium hydroxide | 1N, 3 ml | [OH-].[Na+]
product | 4-[(1-methyl-7-oxo-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-5-yl)methyl]-1-benzenesulfonic acid | 178 mg | CN1N=C(C=2N=C(NC(C21)=O)CC2=CC=C(C=C2)S(=O)(=O)O)CCC | C16H18N4O4S
